US04857513
To a solution of 2-[1-(tert-butoxycarbonyl)imidazol-4-yl]acetic acid (45 mg) and tetraethyl (aminomethylene)bis(phosphonate) (91 mg) in N,N-dimethylformamide (1 ml) was added N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (42 mg) with stirring on ice-sodium chloride bath under nitrogen atmosphere. After stirring for 36 hours at 5° C., the mixture was diluted with chloroform (10 ml) and washed with cold 1N aqueous solution of citric acid (10 ml). The aqueous layer was extracted with chloroform (10 ml) twice and the combined organic layers were dried over sodium sulfate and evaporated in vacuo. The residue was dissolved in ethyl acetate (10 ml) and the solution was washed with water (10 ml), dried over sodium sulfate and evaporated in vacuo to give a colorless syrup of tetraethyl [[2-{1-(tert-butoxycarbonyl)imidazol-4-yl}acetamido]methylene]bis(phosphonate) (67 mg).

reactant | 2-[1-(tert-butoxycarbonyl)imidazol-4-yl]acetic acid | 45 mg | C(C)(C)(C)OC(=O)N1C=NC(=C1)CC(=O)O | C10H14N2O4
reactant | tetraethyl (aminomethylene)bis(phosphonate) | 91 mg | NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H23NO6P2
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 42 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | tetraethyl [[2-{1-(tert-butoxycarbonyl)imidazol-4-yl}acetamido]methylene]bis(phosphonate) | 67 mg | C(C)(C)(C)OC(=O)N1C=NC(=C1)CC(=O)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C19H35N3O9P2
